US08377923B2
Methanol was added to a mixture of 4-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-1,3,4-oxadiazol-2-yl}pyridin-2-amine (258 mg) and ethylamine hydrochloride (1.0 g), followed by homogenizing. The solvent was evaporated under reduced pressure, followed by melting at 150° C. for 7 hours. The reaction solution was cooled to room temperature, equivalent amounts of water and saturated brine were added thereto, followed by extraction with ethyl acetate, the organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol), and the resulting solid was washed with diisopropylether, to obtain, as an ocher solid, 4-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-4-ethyl-4H-1,2,4-triazol-3-yl}pyridin-2-amine (8.0 mg).

reactant | 4-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-1,3,4-oxadiazol-2-yl}pyridin-2-amine | 258 mg | ClC1=CC(=C(OC(C)(C)C2=NN=C(O2)C2=CC(=NC=C2)N)C(=C1)F)F | C16H13ClF2N4O2
reactant | ethylamine hydrochloride | 1.0 g | Cl.C(C)N
solvent | Methanol | CO | CH4O
product | 4-{5-[1-(4-chloro-2,6-difluorophenoxy)-1-methylethyl]-4-ethyl-4H-1,2,4-triazol-3-yl}pyridin-2-amine | 8.0 mg | ClC1=CC(=C(OC(C)(C)C=2N(C(=NN2)C2=CC(=NC=C2)N)CC)C(=C1)F)F | C18H18ClF2N5O
